US04046801
This preparation illustrates methods of preparing 2-(carboalkoxy-alkyl)-1-oxo-cyclopent-2-ene. In this example 20.1 g. of crude 1-acetoxy-2-(6-carbomethoxy-hexyl)-cyclopent-1-ene, prepared according to Preparation 4, is dissolved in 180 ml. of tetrahydrofuran and 20 ml. of water and then cooled to 0° C. under nitrogen. Eleven grams of N-bromoacetamide is added. The resulting reaction solution is monitored by thin-layer chromatography and allowed to stand until complete reaction is indicated. The reaction mixture is then poured into water and extracted with methylene chloride. 150 Milliliters of pyridine and 3 g. of lithium carbonate are added to the methylene chloride extract and the resulting mixture then concentrated by evaporation under reduced pressure to remove most of the methylene chloride. The concentrate is stirred at 90° C. under nitrogen, for 1 hour and then examined by thin-layer chromatography to ensure complete reaction. The reaction solution is then cooled to room temperature and poured into water and extracted with methylene chloride. The methylene chloride extract is washed with water, washed with saturated aqueous sodium chloride, then dried over sodium sulfate, and evaported to dryness affording a crude residue of 2-(6-carbomethoxy-hexyl)-1-oxo-cyclopent-2-ene, which is further purified by high vacuum distillation. This product is then dissolved in 350 ml. of methanol, and a solution containing 4.6 g. of semicarbazone hydrochloride and 5 g. of pyridine in 40 ml. of water is then added. The resulting mixture is stirred at room temperature for two hours and then poured into water. The water mixture is filtered, and the collected precipitate is washed with hexane. The filtrate and washings are combined and extracted four times with hexane. The extracts are combined and washed with water, washed with saturated aqueous sodium chloride solution, and then dried over sodium sulfate and evaporated to dryness affording pure 2-(6-carbomethoxy-hexyl)-1-oxo-cyclopent2-ene.

reactant | 1-acetoxy-2-(6-carbomethoxy-hexyl)-cyclopent-1-ene | C(C)(=O)OC1=C(CCC1)CCCCCCC(=O)OC | C15H24O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | N-bromoacetamide | Eleven grams | BrNC(C)=O | C2H4BrNO
solvent | water | O | H2O
product | 2-(6-carbomethoxy-hexyl)-1-oxo-cyclopent-2-ene | C(=O)(OC)CCCCCCC=1C(CCC1)=O | C13H20O3
